US06180630B2
2-(4-Chlorophenyl)-2,5,6,7,8,9-hexahydropyrazolo[4,3-c]cinnolin-3-one
To 2-(4-chlorophenyl)-2,5-dihydropyrazolo[4,3-c]cinnolin-3-one (0.5 g) dissolved in trifluoroacetic acid (20 ml) was added platinum oxide (0.2 g). The re action mixture was hydrogenated at 50 psi until no further uptake of hydrogen was observed. The catalyst was collected by filtration, the filtrate was poured onto ice and basified with ammonia. On the addition of dichloromethane a solid precipitated out; the solid was collected by filtration, washed with water and dried. Recrystallisation from ethanol gave the title compound. δH (360 MHz; DMSO-d6) 1.83 (4H, m, CH2), 2.67 (2H, t, J=5.7 Hz, CH2), 2.75 (2H, t, J=5.7 Hz, CH2), 7.51 (2H, d, J=9 Hz, ArH), 8.23 (2H, d, J=9 Hz, ArH), m/z (ESP+) 301/303 (MH+).

reactant | 2-(4-chlorophenyl)-2,5-dihydropyrazolo[4,3-c]cinnolin-3-one | 0.5 g | ClC1=CC=C(C=C1)N1N=C2C(=NNC=3C=CC=CC23)C1=O | C15H9ClN4O
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 2-(4-Chlorophenyl)-2,5,6,7,8,9-hexahydropyrazolo[4,3-c]cinnolin-3-one | ClC1=CC=C(C=C1)N1N=C2C(=NNC=3CCCCC23)C1=O | C15H13ClN4O
